US07655657B2
5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-indol-2-one
5-Bromo-1,3-dihydro-indol-2-one (Aldrich, 1.06 g, 5 mmol) was coupled with bis(pinacolato)diboron (Aldrich, 1.52 g, 6 mmol) catalyzed by PdCl2(dppf)2.CH2Cl2 (Aldrich, 82 mg, 0.1 mmol) using KOAc (Aldrich, 0.98 g, 10 mmol) as base in dioxane (anhydrous, Aldrich, 50 mL) at 80° C. for 10 h. After being cooled down to ambient temperature, the mixture was diluted with EtOAc (50 mL) and washed with brine (2×10 mL). The organic solution was then concentrated under vacuum. The title compound was purified by chromatography (SiO2, hexane:EtOAc, 70:30, Rf. 0.5) as a solid (0.96 g, yield, 74%). 1H NMR (300 MHz, CDCl3) δ 1.24 (s, 3H), 1.28 (s, 3H), 1.34 (s, 6H), 3.69 (s, 2H), 6.86 (d, J=7.8 Hz, 1H), 7.57-7.78 (m, 2H) ppm. MS (DCI/NH3): 260 (M+H)+.

reactant | 5-Bromo-1,3-dihydro-indol-2-one | 5 mmol, 1.06 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | bis(pinacolato)diboron | 6 mmol, 1.52 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.1 mmol, 82 mg | C(Cl)Cl | CH2Cl2
reactant | KOAc | 10 mmol, 0.98 g | CC(=O)[O-].[K+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf)2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-indol-2-one | CC1(OB(OC1(C)C)C=1C=C2CC(NC2=CC1)=O)C | C14H18BNO3
